US06670379B2
A solution of {(R)-1-benzyl-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester (1.12 g, 2.54 mmol) and trifluoroacetic acid (3 ml) in dichloromethane (6 ml) is stirred at ambient temperature for 3 hours. The solvent is evaporated and the residue takenup in hydrochloric acid (2M), washed with ethylacetate and basified with sodium hydroxide solution (4M) to pH8-9. The suspension is extracted with dichloromethane, the dichloromethane dried over magnesium sulphate and the solvent evaporated to afford [1-((R)-2-amino-3-phenyl-propyl)-piperidin-4-yl]-(4-fluoro-phenyl)-methanone. [MH]+341.7.

reactant | {(R)-1-benzyl-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester | 2.54 mmol, 1.12 g | C(C)(C)(C)OC(N[C@@H](CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)CC1=CC=CC=C1)=O | C26H33FN2O3
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | [1-((R)-2-amino-3-phenyl-propyl)-piperidin-4-yl]-(4-fluoro-phenyl)-methanone | N[C@@H](CN1CCC(CC1)C(=O)C1=CC=C(C=C1)F)CC1=CC=CC=C1 | C21H25FN2O
